US06451821B1
The process is performed as in Example 1, starting with 5 g of (+)-(S)-1-amino-2-propanol and 8.43 g of tert-butyl isothiocyanate in 60 cm3 of ethanol. After stirring the reaction medium for 5 hours at a temperature in the region of 20° C. and then concentration under reduced pressure (5 kPa) at a temperature in the region of 50° C., the white solid obtained is taken up in diethyl ether. The suspension is again concentrated under the same conditions as above. 11.86 g of N-[(2S)-2-hydroxypropyl]-N′-tert-butylthiourea are obtained in the form of a white solid melting at 106° C.

reactant | (+)-(S)-1-amino-2-propanol | 5 g | NC[C@H](C)O | C3H9NO
reactant | tert-butyl isothiocyanate | 8.43 g | C(C)(C)(C)N=C=S | C5H9NS
solvent | ethanol | 60 cm3 | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[(2S)-2-hydroxypropyl]-N′-tert-butylthiourea | 11.86 g | O[C@H](CNC(=S)NC(C)(C)C)C | C8H18N2OS
